US05098930
Using the procedure described in Example 5, 4-(5-fluoro-3-hydroxyphenyl)-4-methoxytetrahydropyran was reacted with 2-bromomethyl-5-trifluoromethylnaphthalene to give 4-[5-fluoro-3-(5-trifluoromethylnaphth-2-ylmethoxy)phenyl]-4-methoxytetrahydropyran in 36% yield, as an oil.

reactant | 4-(5-fluoro-3-hydroxyphenyl)-4-methoxytetrahydropyran | FC=1C=C(C=C(C1)C1(CCOCC1)OC)O | C12H15FO3
reactant | 2-bromomethyl-5-trifluoromethylnaphthalene | BrCC1=CC2=CC=CC(=C2C=C1)C(F)(F)F | C12H8BrF3
product | 4-[5-fluoro-3-(5-trifluoromethylnaphth-2-ylmethoxy)phenyl]-4-methoxytetrahydropyran | 36% yield | FC=1C=C(C=C(C1)C1(CCOCC1)OC)OCC1=CC2=CC=CC(=C2C=C1)C(F)(F)F | C24H22F4O3
